US08445509B2
Production of ethyl 2-(2,4-difluorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
In the same manner as in Reference Example 63 and using (2,4-difluorophenyl)hydrazine•hydrochloride (5.1 g, 28 mmol), water (100 mL), potassium carbonate (8.6 g, 62 mmol) and diethyl ethoxymethylenemalonate (7.4 g, 34 mmol) as starting materials, the title compound (5.0 g, 66%) was obtained as a pale-yellow solid.

reactant | (2,4-difluorophenyl)hydrazine•hydrochloride | 28 mmol, 5.1 g | FC1=C(C=CC(=C1)F)NN.Cl
reactant | potassium carbonate | 62 mmol, 8.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ethoxymethylenemalonate | 34 mmol, 7.4 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | water | 100 mL | O | H2O
product | ethyl 2-(2,4-difluorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 5.0 g, 66% | FC1=C(C=CC(=C1)F)N1NC=C(C1=O)C(=O)OCC | C12H10F2N2O3
